US05892116
N-dodecyl-N,N,N-trioctadecylammonium iodide is prepared according to the following process. 0.14 g (0.18 mmol) trioctadecylamine, 0.20 ml (0.8 mmol) C12H25I (99%, Aldrich), and 4 ml butanone (ACS, Baker) are placed into a dry nitrogen atmosphere with stirring for 4 days. 85 mg (44%) white solid, mp 93°-94° C., is obtained after the solvent is evaporated, and the residue is recrystallized twice in ethanol (anhydrous). IR(KBr) 2920, 2857 (C-H stretching, vvs), 1473, 1381 (C-H bending, w) cm-1. 1HNMR (CDCl3) δ 3.65-2.99 (CH2, m, 8H), 1.91-0.49 (heptadecyl and undecyl groups, m, 134H).

reactant | trioctadecylamine | 0.18 mmol, 0.14 g | C(CCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C54H111N
reactant | C12H25I | 0.8 mmol, 0.20 ml | C(CCCCCCCCCCC)I | C12H25I
solvent | butanone | 4 ml | CC(CC)=O | C4H8O
product | N-dodecyl-N,N,N-trioctadecylammonium iodide | [I-].C(CCCCCCCCCCC)[N+](CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | InChI=1S/C66H136N.HI/c1-5-9-13-17-21-25-29-32-35-38-41-44-48-52-56-60-64-67(63-59-55-51-47-28-24-20-16-12-8-4,65-61-57-53-49-45-42-39-36-33-30-26-22-18-14-10-6-2)66-62-58-54-50-46-43-40-37-34-31-27-23-19-15-11-7-3;/h5-66H2,1-4H3;1H/q+1;/p-1
